US04339427
Boc-α-benzyl-L-aspartyl benzhydrylamine resin
Benzhydrylamine resin (10 g., 0.4 mmol/g.) was stirred with 250 ml. of 25% Et3N in CH2Cl2 for 10 minutes and then washed a few times with fresh CH2Cl2. It was then suspended in 240 ml. of CH2Cl2 and stirred with Boc-α-benzyl-L-aspartic acid (3.24 g., 10 mmol) and DCC (2.06 g., 10 mmol) for 17 hours. The amino acylated resin was collected, washed thoroughly with CH2Cl2, DMF and MeOH. It was dried and benzoylated with 1.5 ml. of pyridine and 1.65 ml. of benzoyl chloride in 110 ml. of CH2Cl2 for 15 minutes at 0° C. The resin was washed with CH2Cl2, MeOH to give 10.7 g. of desired material. Amino acid analysis indicated that there was 0.40 mmol/g. of aspartic acid.

reactant | Benzhydrylamine | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | Boc-α-benzyl-L-aspartic acid | 10 mmol, 3.24 g | C(=O)(OC(C)(C)C)N[C@@](CC(=O)O)(C(=O)O)CC1=CC=CC=C1 | C16H21NO6
reactant | DCC | 10 mmol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | Boc-α-benzyl-L-aspartyl benzhydrylamine | C(=O)(OC(C)(C)C)N[C@@](CC(O)=O)(C(=O)NC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C29H32N2O5
